US07750029B2
A mixture of 7.51 kg of (R)-2-hydroxy-N-[2-(4-nitrophenyl)ethyl]-2-phenylacetamide, 23 liters of 1,3-dimethyl-2-imidazolidinone and 23 liters of tetrahydrofuran was cooled at −18° C. and 49.4 kg of 1M boran-tetrahydrofuran solution was dropped there into at not higher than −7° C. After that, temperature of the mixture was raised to 70° C. followed by stirring for 5 hours. The reaction mixture was cooled at −12° C. and 2.9 kg of methanol and 5.9 kg of concentrated hydrochloric acid were added thereto at not higher than 5° C. After stirring at 68° C. for 1 hour, the mixture was concentrated in vacuo until the amount became 50 liters. A 30% aqueous solution (60 kg) of K2CO3 and 6 liters of water were added thereto followed by extracting with 75 liters of ethyl acetate. The organic layer was washed with 75 liters of water and concentrated in vacuo. Isopropanol (75 liters) was added to the residue, the mixture was dissolved at 40° C. and 2.46 kg of concentrated hydrochloric acid was added to crystallize followed by stirring at 23° C. throughout one night. The crystals were filtered and washed with 38 liters of isopropanol. They were dried in vacuo to give 7.29 kg of (R)-2-[[2-(4-nitrophenyl)ethyl]amino]-1-phenylethanol monohydrochloride.

reactant | (R)-2-hydroxy-N-[2-(4-nitrophenyl)ethyl]-2-phenylacetamide | 7.51 kg | O[C@@H](C(=O)NCCC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C16H16N2O4
reactant | 1,3-dimethyl-2-imidazolidinone | 23 liters | CN1C(N(CC1)C)=O | C5H10N2O
reactant | tetrahydrofuran | 23 liters | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 5.9 kg | Cl | ClH
solvent | methanol | 2.9 kg | CO | CH4O
product | (R)-2-[[2-(4-nitrophenyl)ethyl]amino]-1-phenylethanol monohydrochloride | 7.29 kg | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCNC[C@H](O)C1=CC=CC=C1 | InChI=1S/C16H18N2O3.ClH/c19-16(14-4-2-1-3-5-14)12-17-11-10-13-6-8-15(9-7-13)18(20)21;/h1-9,16-17,19H,10-12H2;1H/t16-;/m0./s1
